data/oMe_Silver.jsonl
{"reaction_id": "NR-239_1-c1ccccc1_2-N(C)C_3-CC_4-CC","level": "medium","name": "Stetter Reaction","reactants_smiles": ["c1ccccc1C(=O)[H]","C(CC)=C(CC)C(=O)N(C)C","[C-]#N"],"products_smiles": ["N(C)CC(=O)C(CC)C(CC)C(=O)c1ccccc1"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1C([O-])C#N","step_weight": 0,"rationale": "Cyanide attacks the electrophilic carbonyl carbon of the aldehyde due to its strong nucleophilicity and the polarization of the C=O bond, forming a stabilized cyanohydrin anion."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[C-](O)C#N","step_weight": 0,"rationale": "Proton transfer occurs to generate the Breslow-type intermediate, driven by stabilization through resonance between the alkoxide and adjacent carbon."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1C(O)(C#N)C(CC)C(CC)=C([O-])N(C)C","step_weight": 0,"rationale": "The nucleophilic Breslow intermediate attacks the β-carbon of the α,β-unsaturated carbonyl via conjugate addition, favored by resonance stabilization of the resulting enolate."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1C([O-])(C#N)C(CC)C(CC)C(=O)N(C)C","step_weight": 0,"rationale": "Proton transfer converts the enolate into a neutral alcohol, driven by the high basicity of the enolate and the availability of proton donors in the medium."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "N(C)CC(=O)C(CC)C(CC)C(=O)c1ccccc1","step_weight": 0,"rationale": "Elimination of cyanide regenerates the catalyst, favored by the formation of a conjugated carbonyl system and the good leaving group ability of cyanide under these conditions."}],"description": "In the Stetter reaction, a nucleophilic catalyst such as cyanide activates the aldehyde to form a Breslow-type intermediate, which then performs a Michael addition to an α,β-unsaturated carbonyl. Subsequent proton transfers and catalyst elimination yield the thermodynamically stable 1,4-dicarbonyl product."}
{"reaction_id": "NR-225_1-C1CCCCC1","level": "medium","name": "Pinnick-Lindgren Oxidation","reactants_smiles": ["C(C1CCCCC1)C=O","Cl(=O)([O-])"],"products_smiles": ["C(C1CCCCC1)C(=O)O"],"conditions": "NaH2PO4, t-BuOH, 2-methyl-2-butene","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C1CCCCC1)C(O)O(Cl=O)","step_weight": 0,"rationale": "The aldehyde carbonyl is highly electrophilic due to the polarized C=O bond, enabling nucleophilic attack by chlorite under buffered conditions, forming a tetrahedral intermediate stabilized by adjacent oxygen lone pairs."},{"step": 2,"type": "rearrangement","subtype": "rearrangement","intermediate_smiles": "C(C1CCCCC1)C(=O)O","step_weight": 0,"rationale": "Rearrangement proceeds as electron shifts favor formation of the more stable carboxylate, driven by strong thermodynamic stability of the C=O in acids and elimination of HClO as a good leaving group."}],"description": "In the Pinnick-Lindgren oxidation, chlorite ion selectively oxidizes aldehydes to carboxylic acids under mild, buffered conditions. Nucleophilic attack on the electrophilic carbonyl initiates the process, followed by rearrangement to release oxidized product while minimizing side reactions via chlorine scavenging."}
